US05506261
To a mixture of concentrated NH4OH (100 mL) and ice was added 2-thiopheneacetyl chloride (13.0 g, 80.9 mmol). The desired compound crystallized from the reaction mixture. Recrystallization from hot water gave 2-thiopheneacetamide (8.08 g, 64% yield) as white crystals. mp 146°-147° C.

reactant | 2-thiopheneacetyl chloride | 80.9 mmol, 13.0 g | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | NH4OH | 100 mL | [NH4+].[OH-]
product | 2-thiopheneacetamide | 8.08 g, 64% yield | S1C(=CC=C1)CC(=O)N | C6H7NOS
